US05246948
Synthesis of 4-[3-(2-furoylamino)propylthio]pyridine
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.78 ml (19.9 mmol) of triethylamine in 40 ml of methylene chloride, 0.49 ml (4.98 mmol) of 2-furoyl chloride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain powder. The powder was washed with ether and dried to obtain 950 mg of the desired compound (yield: 87.3%, colorless powder).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 19.9 mmol, 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 4.98 mmol, 0.49 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-furoylamino)propylthio]pyridine | 950 mg, yield: 87.3% | O1C(=CC=C1)C(=O)NCCCSC1=CC=NC=C1 | C13H14N2O2S
